US06171578B2
N-(Carbo-t-butoxymethyl)-5-hydroxyanthranilic acid (26.7 g, 100 mmol) was placed in a dry 2 liter round bottom flask. The reaction atmosphere was flushed with argon and N-(carbobenzyloxymethyl)-3-aminopropionic acid, ethyl ester (29.0 g, 109 mmol) in anhydrous DMF (500 mL) was added, followed by the addition of O-(7-azabenzotriaol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU reagent, 39.9 g, 105 mmol). Triethylamine (42.0 mL, 301 mmol) was added and the reaction mixture was stirred at room temperature under a balloon of argon for 16 hours. The DMF was removed in vacuo on a rotary evaporator and the residue partitioned between ethyl acetate (1.0 liter) and saturated NaHCO3 (500 mL). The organics were washed with water (500 mL), saturated NaCl (100 mL) and dried over MgSO4. The organics were filtered, the volatiles removed in vacuo on a rotary evaporator and the residual oil pumped on under high vacuum to yield an oil. This oil was taken up in 9:3 ethyl acetate/methanol (1200 mL) and placed under an atmosphere of argon gas. 10% Pd/C (4.0 g) was added and the reaction atmosphere replaced with hydrogen gas (4 purge-fills). The reaction mixture was stirred under a balloon of hydrogen for 45 hours. The reaction atmosphere was replaced with argon and the suspension filtered through a pad of Celite, which was washed with an additional 300 mL of methanol. The volatiles were removed in vacuo and the residue was taken up in a minimum of dichloromethane and chromatographed on silica gel, eluting the column with 1:1 ethyl acetate/hexanes. Fractions containing pure product (Rf=0.17 in 1:1 ethyl acetate/hexanes) were combined and the solvents removed in vacuo to yield 1-(carbo-t-butoxymethyl)-4-(2-carboethoxyethyl)-7-hydroxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione as a white solid (20.2 g, 50% yield).

reactant | N-(Carbo-t-butoxymethyl)-5-hydroxyanthranilic acid | 100 mmol, 26.7 g | C(=O)(OC(C)(C)C)CNC=1C(C(=O)O)=CC(=CC1)O | C13H17NO5
reactant | N-(carbobenzyloxymethyl)-3-aminopropionic acid, ethyl ester | 109 mmol, 29.0 g | C(=O)(OCC1=CC=CC=C1)CNCCC(=O)OCC | C14H19NO4
reactant | Triethylamine | 301 mmol, 42.0 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 4.0 g | [Pd] | Pd
solvent | ethyl acetate methanol | 1200 mL | C(C)(=O)OCC.CO
product | 1-(carbo-t-butoxymethyl)-4-(2-carboethoxyethyl)-7-hydroxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 20.2 g, 50% yield | C(=O)(OC(C)(C)C)CN1C(CN(C(C2=C1C=CC(=C2)O)=O)CCC(=O)OCC)=O | C20H26N2O7
